US08703768B2
The product was obtained according to the method described in example 4, step 2 starting from 4-nitro-1H-pyrazole-3-carboxylic acid ethyl ester and bromomethyl-cyclopropane as a mixture of regioisomers which were separated by silica gel chromatography using a heptane/ethyl acetate gradient to yield 179 mg (46%) of the desired regioisomer and 88 mg (23%) of 2-cyclopropylmethyl-4-nitro-2H-pyrazole-3-carboxylic acid ethyl ester.

reactant | 4-nitro-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NNC=C1[N+](=O)[O-] | C6H7N3O4
reactant | bromomethyl-cyclopropane | BrCC1CC1 | C4H7Br
product | 2-cyclopropylmethyl-4-nitro-2H-pyrazole-3-carboxylic acid ethyl ester | 88 mg, 23% | C(C)OC(=O)C=1N(N=CC1[N+](=O)[O-])CC1CC1 | C10H13N3O4
